US07622583B2
(3-Amino-5-chloro-pyridin-2-yl)-(2,4-dimethyl-pyridin-3-yl)-methanone
To a mixture of iron powder (220 mg, 4.0 mmol) in 4 ml of acetic acid at 80° C. was slowly added a solution of (3-Nitro-5-chloro-pyridin-2-yl)-(2,4-dimethyl-pyridin-3-yl)-methanone (260 mg, 0.89 mmol) in 2 ml of acetic acid. After the completion of addition the mixture was stirred at 80° C. for half an hour and then cooled. The mixture was diluted with ethyl acetate, filtered through celite and the filtrate was concentrated. The residue was purified by flash column (50% ethyl acetate in hexane) to afford 140 mg of title compound as off-white solid. MS: (M+H)/z =262.0.

reactant | (3-Nitro-5-chloro-pyridin-2-yl)-(2,4-dimethyl-pyridin-3-yl)-methanone | 0.89 mmol, 260 mg | [N+](=O)([O-])C=1C(=NC=C(C1)Cl)C(=O)C=1C(=NC=CC1C)C | C13H10ClN3O3
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | iron | 4.0 mmol, 220 mg | [Fe] | Fe
product | (3-Amino-5-chloro-pyridin-2-yl)-(2,4-dimethyl-pyridin-3-yl)-methanone | 140 mg | NC=1C(=NC=C(C1)Cl)C(=O)C=1C(=NC=CC1C)C | C13H12ClN3O
